US04009208
The intermediate 3-fluoro-4-methoxybenzoyl chloride was prepared as follows: Fifty g. of calcium hypochlorite was dissolved by warming in 200 ml. of water to give a milky solution. A warm solution containing 35 g. of potassium carbonate and 10 g. of potassium hydroxide in 100 ml. of water was added; the resulting mixture was shaken for about 5 minutes and then filtered through a sintered glass funnel. The filtrate cake of calcium carbonate was washed with 40 ml. of water. The combined filtrates were placed in a one liter round bottom flask and stirred while heating on a steam bath to about 55° C. To the stirred solution was added 16.8 g. of 3-fluoro-4-methoxyacetophenone and the stirred suspension was cautiously warmed to 60° C. whereupon an exothermic reaction began. The reaction temperature was allowed to rise to 70° C. and the mixture was cooled to 60° C. using an ice bath; this was repeated several times until the reaction moderated. The stirred reaction mixture was then kept at 60°-70° C. on a steam bath for 30 minutes and then cooled to room temperature with continued stirring. The reaction mixture was filtered and to the filtrate was added 10 g. of sodium metabisulfite in 40 ml. of water to destroy the excess hypochlorite. The mixture was then acidified with 40 ml. of concentrated hydrochloric acid and additional water was added to facilitate stirring due to copious formation of white solid. The mixture was placed in a cold room and the solid was collected, washed with a little water, recrystallized from 150 ml. of acetonitrile and air-dried to yield 12.9 g. of 3-fluoro-4-methoxybenzoic acid, m.p. 211°-212° C.

reactant | calcium hypochlorite | Cl[O-].[Ca+2].Cl[O-]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | 3-fluoro-4-methoxybenzoic acid | FC=1C=C(C(=O)O)C=CC1OC | C8H7FO3
solvent | water | O | H2O
product | 3-fluoro-4-methoxybenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1OC | C8H6ClFO2
